US08030303B2
(2S)-2-Aminomethyl-4-(3,4-dichlorobenzyl)morpholine dihydrochloride (120 g) was dissolved in tert-butyl methyl ether (450 ml), water (450 ml) was added and the mixture was cooled on an ice bath. Sodium hydrogen carbonate (95.56 g) was gradually added and, after the addition, chloroacetyl chloride (29 ml) was added dropwise over about 10 min while maintaining the inside temperature at 15° C. or below. After the completion of the dropwise addition, the mixture was stirred at room temperature for 1.5 hr. After 1.5 hr, sodium hydrogen carbonate (3 g) and chloroacetyl chloride (2.7 ml) were successively added to the reaction mixture at room temperature, and the mixture was further stirred for 1.5 hr. The reaction mixture was stood still and partitioned, and the organic layer was obtained as a solution of (2S)-N-{[4-(3,4-dichlorobenzyl)morpholin-2-yl]methyl}chloroacetamide in tert-butyl methyl ether.

reactant | (2S)-2-Aminomethyl-4-(3,4-dichlorobenzyl)morpholine dihydrochloride | 120 g | Cl.Cl.NC[C@H]1CN(CCO1)CC1=CC(=C(C=C1)Cl)Cl
reactant | water | 450 ml | O | H2O
reactant | Sodium hydrogen carbonate | 95.56 g | C(O)([O-])=O.[Na+]
reactant | chloroacetyl chloride | 29 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydrogen carbonate | 3 g | C(O)([O-])=O.[Na+]
reactant | chloroacetyl chloride | 2.7 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | tert-butyl methyl ether | 450 ml | COC(C)(C)C | C5H12O
product | (2S)-N-{[4-(3,4-dichlorobenzyl)morpholin-2-yl]methyl}chloroacetamide | ClC=1C=C(CN2C[C@@H](OCC2)CNC(CCl)=O)C=CC1Cl | C14H17Cl3N2O2
